US05714487
(7RS,8aSR)-7-Hydroxymethyl-7-methyl-2-phenylmethyl-1,2,3,4,6,7,8,8a-octahydro-pyrrolo[1,2-a]pyrazine
A solution of 3.33 g (11 mmol) of (7RS,8aSR)-7-methoxycarbonyl-7-methyl-2-phenylmethyl-1,2,3,4,6,7,8,8a-octahydro-pyrrolo[1,2-a]pyrazin-1-one (Jones, R. C. F.; Howard, K. J. J. Chem. Soc., Perkin Trans. 1, 1993, 2391) in 125 mL of dry THF was added dropwise to a stirred suspension of 1.26 g (33 mmol) of lithium aluminum hydride in 125 mL of dry THF. The solution was stirred for 2 h at room temperature, and carefully quenched with 1.26 mL of water, 1.26 mL of 15% NaOH, and 3.78 mL of water. After stirring for 30 min, the mixture was filtered through Celite, dried (magnesium sulfate), filtered and evaporated. Purification by flash silica gel chromatography eluting with 9:1 chloroform:methanol gave 1.67 g (58%) of the title compound. 13C NMR (base, CDCl3): δ 25.3, 39.7, 41.8, 51.1, 51.6, 57.1, 62.3, 62.9, 63.3. 71.3, 127.0, 128.2, 128.7, 129.2, 138.3. m/z (MH+) 261.

reactant | (7RS,8aSR)-7-methoxycarbonyl-7-methyl-2-phenylmethyl-1,2,3,4,6,7,8,8a-octahydro-pyrrolo[1,2-a]pyrazin-1-one | 11 mmol, 3.33 g | COC(=O)C1(CC2N(CCN(C2=O)CC2=CC=CC=C2)C1)C | C17H22N2O3
reactant | lithium aluminum hydride | 33 mmol, 1.26 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 125 mL | C1CCOC1 | C4H8O
solvent | THF | 125 mL | C1CCOC1 | C4H8O
product | (7RS,8aSR)-7-Hydroxymethyl-7-methyl-2-phenylmethyl-1,2,3,4,6,7,8,8a-octahydro-pyrrolo[1,2-a]pyrazine | 1.67 g, 58% | OCC1(CC2N(CCN(C2)CC2=CC=CC=C2)C1)C | C16H24N2O
